US06313126B1
5-Fluoro-8-(trifluoromethylsulfonyloxy)-quinoline
To a cold solution (−15° C.) of 5-Fluoro,8-hydroxy-quinoline (2.5 g) in 20 mL CH2Cl2, TEA is added (6.3 mL). To the cold mixture a solution of 6.5 g of triflic anhydride in 10 mL of CH2Cl2, is added drop by drop with cooling. After complete addition, the reaction was stirred at 0° C. for 1 hour; The reaction was quenched with water, and the product was extracted with ether, dried and the solvent was removed to give 3.4 g of product. MS (ES) m/z (relative intensity): 296 (M+H+, 100).

reactant | 5-Fluoro,8-hydroxy-quinoline | 2.5 g | FC1=C2C=CC=NC2=C(C=C1)O | C9H6FNO
reactant | triflic anhydride | 6.5 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-8-(trifluoromethylsulfonyloxy)-quinoline | 3.4 g | FC1=C2C=CC=NC2=C(C=C1)OS(=O)(=O)C(F)(F)F | C10H5F4NO3S
